data/mechanisms/records/IMS8-EQ8.36.json
{"mechanism_id": "IMS8-EQ8.36", "species": [{"species_id": "dilithio_fatty_acid_cation", "mapped_smiles": "[CH3:1][CH:2]([1H:20])[CH2:3][CH2:4][CH:5]([1H:21])[CH:6]=[CH:7][CH2:8][C+:9]([O:10][Li:11])([O:12][Li:13])", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "terminal_olefin_neutral", "mapped_smiles": "[CH3:1][CH:2]=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "dihydrogen_neutral", "mapped_smiles": "[1H:20][1H:21]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "conjugated_diene_carboxyl_cation", "mapped_smiles": "[CH2:4]=[CH:5][CH:6]=[CH:7][CH2:8][C+:9]([O:10][Li:11])([O:12][Li:13])", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dilithio_fatty_acid_cation"]}, {"state_id": "state_products", "species_ids": ["terminal_olefin_neutral", "dihydrogen_neutral", "conjugated_diene_carboxyl_cation"]}], "steps": [{"step_id": "step_charge_remote_fragmentation", "from_state": "state_precursor", "to_state": "state_products", "step_class": "charge_remote_fragmentation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 20]}, "target": {"type": "bond", "atom_maps": [20, 21]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 21]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_crf_8_36", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_charge_remote_fragmentation", "support_type": "textbook_proposed", "locator": {"page": 165, "equation": "8.36", "figure": null, "panel": null, "section": "8.4/8.5 charge-remote fragmentation; the 'classic example (Adams and Gross 1989)' using FAB (Li+) ionization of an unsaturated fatty acid"}, "confidence": 0.7, "curator_note": "Charge-remote fragmentation (CRF) of a FAB-generated, doubly-lithiated unsaturated-fatty-acid cation (Adams and Gross 1989). The reacting site is REMOTE from the charge: the whole point of the scheme (and the surrounding text, 'By stabilizing the charge at a remote site, isomerization can be minimized to give location-specific decompositions') is that the dilithio-carboxyl carbenium (map 9, [C+](OLi)(OLi)) is a spectator - it carries the charge but does not participate in any electron move. NET REACTION (curator's conserving reconstruction; see DRAWING DEFICIENCY below): R-CH2-CH2-CH2-CH2-CH=CH-(CH2)n-C(OLi)2+  ->  R-CH=CH2  +  H2  +  CH2=CH-CH=CH-(CH2)n-C(OLi)2+ . A single C-C bond (the homoallylic Cb-Cc bond, maps 3-4) is cleaved, H2 is eliminated, and two olefinic termini are created; the charged fragment is encoded as the conjugated 1,3-diene CH2=CH-CH=CH-(CH2)n-C(OLi)2+ (a new C=C at map 4=5 plus the map 6=7 C=C), the mass-conserving, location-specific CRF product. ARC COUNT (convention D): the book draws 0 (zero) curved arrows/fishhooks - Equation 8.36 is a net reactant->products scheme, not an arrow-pushing diagram. What the figure DOES draw explicitly are the individual hydrogens: the two bracket carbons that lose an H are drawn with a single H on top (RCH, map 2; and the apex CH, map 5), while the two carbons that keep both H and become the =CH2 termini are drawn 'H2C'/'CH2' (maps 3 and 4). That explicit-H drawing is the book's only mechanistic hint. The two departing hydrogens are encoded as protium-1 isotope labels ([1H:20] on Ca, [1H:21] on Cd) so they remain explicit, map-stable atoms that RDKit does not fold into implicit-H counts (the house convention used e.g. in IMS4-EQ4.37); the mass number 1 is ordinary protium, so no mass is altered. All 3 encoded electron_moves are therefore IMPLICIT (electron flow reconstructed for balance; not drawn on the page): move <1> routes the Ca-Ha bonding pair (bond 2-20) into the forming H-H bond (bond 20-21); move <2> routes the Cd-Hd bonding pair (bond 5-21) into the forming Cc=Cd pi bond (bond 4-5); move <3> routes the cleaving Cb-Cc sigma pair (bond 3-4) into the forming Ca=Cb pi bond (bond 2-3). This closed-shell 6-centre (Ha-Ca-Cb-Cc-Cd-Hd) concerted 1,4-elimination of H2 with allylic C-C cleavage keeps every species even-electron (EE+ throughout, no radicals) - consistent with the charge/radical NOT being localized at the reacting site. CRF mechanism is debated (concerted 1,4-H2 elimination vs. stepwise homolytic radical pathway); the concerted closed-shell version is encoded because the page shows neither arrows nor radicals and the ion is a closed-shell FAB adduct. INSTANTIATION (convention F): the book scheme is generic (R and n are undefined and NO m/z or intensity is printed). It is instantiated here as R = CH3 and n = 1, giving precursor C9H15Li2O2+ (curator-computed m/z 169.138) -> propene (R-CH=CH2) + H2 + the C6H7Li2O2+ diene cation (curator-computed m/z 125.076). These m/z are products of the chosen instantiation, NOT measurements from the book. LOCALIZATION (conventions B/C): the remote carboxyl cation is drawn as a delocalized/resonance dilithio-carboxylate carbenium (one C-O drawn as a partial double bond, the other dashed, with a '+'); it is written here in the single localized form [C+](OLi)(OLi) with both C-O single and the '+' on carbon - the exact bonds do not affect the (spectator) electron bookkeeping. DRAWING DEFICIENCY (pixel-verified, convention D): the book DRAWS the charged product as a MONO-ene (only the terminal vinyl H2C=CH-; the two mid-chain CH's are joined by a SINGLE bond, no '=', unlike the precursor's crisply-drawn 'CH=CH'), so as literally drawn the charged fragment is one CH short of and mass-imbalanced with the precursor -- a book drawing imprecision. The conjugated 1,3-diene encoded here is the curator's mass-conserving CORRECTION, NOT a literal transcription of the figure."}], "ms_context": {"ionization_method": "FAB", "polarity": "positive", "adduct": "[M+2Li-H]+", "activation_method": "high-energy collision-activated dissociation (CAD)", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 169.1381, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_diene_cation", "species_id": "conjugated_diene_carboxyl_cation", "step_id": "step_charge_remote_fragmentation", "observed_mz": 125.0755, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
